US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(4-methylthiophenyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(4-methylthiophenyl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide, the title compound was prepared. Chromatography with dichloromethane:methanol followed by conversion to the hydrochloride salt gave a white solid; mp 73-92(dec) °C.; MS: 541; NMR (CD3OD): 1.8-2.2 (m, 6), 2.4 (s, 1), 2.7 (s, 3), 2.6-3.2 (m, 6), 3.4-3.8 (m, 4), 6.9 (d, J=7, 1), 7.1-7.2 (m, 6), 7.3 (m, 5), 7.5(m, 1). Analysis for C30H34Cl2NO2S·1.0HCl·1.0 H2O: Calculated: C, 60.45; H, 6.26; N, 4.70; Found: C, 60.23; H, 5.85; N, 4.70.

reactant | 4-(4-methylthiophenyl)piperidine | CSC1=CC=C(C=C1)C1CCNCC1 | C12H17NS
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | H2O | O | H2O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(4-methylthiophenyl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=CC=C(C=C1)SC | InChI=1S/C30H34Cl2N2OS.ClH/c1-33(30(35)24-6-4-3-5-7-24)21-26(25-10-13-28(31)29(32)20-25)16-19-34-17-14-23(15-18-34)22-8-11-27(36-2)12-9-22;/h3-13,20,23,26H,14-19,21H2,1-2H3;1H/t26-;/m1./s1
